datasets/RMG-dataset.csv
rxn,Ea
[C:0]([C:1](=[O:2])[O:3][O:4][H:8])([H:5])([H:6])[H:7].[H:9]>>[C:0]([C:1](=[O:2])[O:3][O:4])([H:5])([H:6])[H:7].[H:8][H:9],7.78224
[C:0]([C:1]([S:2][H:12])[c:3]1[c:4]([H:13])[c:5]([H:14])[c:6]([H:15])[c:7]([H:16])[c:8]1[H:17])([H:9])([H:10])[H:11].[S:18]([C:19]([c:20]1[c:21]([H:29])[c:22]([H:30])[c:23]([H:31])[c:24]([H:32])[c:25]1[H:33])([H:27])[H:28])[H:26]>>[C:0]([C:1]([S:2][H:12])([c:3]1[c:4]([H:13])[c:5]([H:14])[c:6]([H:15])[c:7]([H:16])[c:8]1[H:17])[H:27])([H:9])([H:10])[H:11].[S:18]([C:19]([c:20]1[c:21]([H:29])[c:22]([H:30])[c:23]([H:31])[c:24]([H:32])[c:25]1[H:33])[H:28])[H:26],15.0624
[C:0](=[C:1]=[C:2]([H:5])[H:6])([H:3])[H:4].[C:7]([C:8]([C:9]([H:15])([H:16])[H:17])[C:10](=[S:11])[H:18])([H:12])([H:13])[H:14]>>[C:0](=[C:1]=[C:2]([H:5])[H:6])[H:4].[H:3][C:8]([C:7]([H:12])([H:13])[H:14])([C:9]([H:15])([H:16])[H:17])[C:10](=[S:11])[H:18],77.8224
[C:0]1([H:10])=[C:1]([H:11])[C:2](=[C:3]2[C:4]([H:12])=[C:5]([H:13])[C:6]([H:14])=[C:7]2[H:15])[C:8]([H:16])=[C:9]1[H:17].[H:18]>>[C:0]1([H:10])=[C:1]([H:11])[C:2]([C:3]2[C:4]([H:12])=[C:5]([H:13])[C:6]([H:14])=[C:7]2[H:15])([H:18])[C:8]([H:16])=[C:9]1[H:17],0.4184
[C:0](=[S:1])([H:2])[H:3].[S:4][H:5]>>[C:0](=[S:1])[H:3].[H:2][S:4][H:5],8.07512
[C:0]([C:1]([C:2]1([H:13])[C:3]([H:14])([H:15])[C:4]([H:16])([H:17])[C:5]([H:18])([H:19])[C:6]([H:20])([H:21])[C:7]1([H:22])[H:23])([H:11])[H:12])([H:8])([H:9])[H:10].[O:24]>>[C:0]([C:1]([C:2]1([H:13])[C:3]([H:14])([H:15])[C:4]([H:16])([H:17])[C:5]([H:18])([H:19])[C:6]([H:20])([H:21])[C:7]1([H:22])[H:23])([H:11])[H:12])([H:9])[H:10].[H:8][O:24],23.028736
[C:0]([C:1]([C:2]([C:3]([C:4]([O:5][O:6][H:18])([H:16])[H:17])([H:14])[H:15])([O:7][O:8][H:19])[H:13])([H:11])[H:12])([H:9])[H:10]>>[C:0]1([H:9])([H:10])[C:1]([H:11])([H:12])[C:2]([C:3]([C:4]([O:5][O:6][H:18])([H:16])[H:17])([H:14])[H:15])([H:13])[O:7]1.[O:8][H:19],74.0568
[C:0]([C:1]([C:2]([O:3][O:4])([H:11])[H:12])([O:5][O:6][H:13])[H:10])([H:7])([H:8])[H:9]>>[C:0]([C:1]([C:2]([O:3][O:4][H:10])([H:11])[H:12])[O:5][O:6][H:13])([H:7])([H:8])[H:9],107.529
[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])([C:3]([O:4])([H:12])[H:13])[H:8])([H:5])([H:6])[H:7]>>[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])[C:3]([O:4][H:8])([H:12])[H:13])([H:5])([H:6])[H:7],82.634
[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])[S:4][H:11])[H:7])([H:5])[H:6].[H:12][H:13]>>[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])([S:4][H:11])[H:13])[H:7])([H:5])[H:6].[H:12],100.416
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([C:3]([H:11])([H:12])[H:13])[H:7])([H:4])([H:5])[H:6].[O:14][H:15]>>[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([C:3]([H:11])([H:12])[H:13])[H:7])([H:5])[H:6].[H:4][O:14][H:15],-0.7066776
[C:0](=[C:1]([H:4])[H:5])([H:2])[H:3].[C:6]([O:7][O:8])([H:9])([H:10])[H:11]>>[C:0](=[C:1]([H:4])[H:5])[H:3].[H:2][O:8][O:7][C:6]([H:9])([H:10])[H:11],113.520288
[C:5]([H:6])([H:7])[H:8].[O:0]([O:1][O:2][H:4])[H:3]>>[O:0][H:3].[O:1]([O:2][H:4])[C:5]([H:6])([H:7])[H:8],58.0576
[C:0](=[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])=[C:4]([C:5]([H:13])([H:14])[H:15])[C:6]([H:16])([H:17])[H:18])[H:9])([H:7])[H:8].[C:19]([C:20]([C:21]([H:31])([H:32])[H:33])[c:22]1[c:23]([H:34])[c:24]([H:35])[c:25]([H:36])[c:26]([H:37])[c:27]1[H:38])([H:28])([H:29])[H:30]>>[C:0](=[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([C:4]([C:5]([H:13])([H:14])[H:15])[C:6]([H:16])([H:17])[H:18])[C:20]([C:19]([H:28])([H:29])[H:30])([C:21]([H:31])([H:32])[H:33])[c:22]1[c:23]([H:34])[c:24]([H:35])[c:25]([H:36])[c:26]([H:37])[c:27]1[H:38])[H:9])([H:7])[H:8],42.5094
[C:0]([C:1](=[O:2])[H:6])([H:3])([H:4])[H:5].[C:7]([H:8])([H:9])[H:10]>>[C:0]([C:1](=[O:2])[H:6])([H:4])[H:5].[H:3][C:7]([H:8])([H:9])[H:10],23.961768
[C:0](=[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([C:4](=[C:5]([H:14])[H:15])[H:13])[H:9])[H:8])([H:6])[H:7].[C:16]([C:17]([H:20])([H:21])[H:22])([H:18])[H:19]>>[C:0](=[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])[C:4](=[C:5]([H:14])[H:15])[H:13])[H:8])([H:6])[H:7].[H:9][C:16]([C:17]([H:20])([H:21])[H:22])([H:18])[H:19],-0.8368
[C:0](#[C:1][C:2](=[S:3])[H:5])[H:4].[C:6](=[C:7][S:8][H:11])([H:9])[H:10]>>[C:0](#[C:1][C:2]=[S:3])[H:4].[H:5][C:7](=[C:6]([H:9])[H:10])[S:8][H:11],76.6927
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5](=[C:6]([C:7]([H:20])([H:21])[H:22])[C:8]([H:23])([H:24])[H:25])[H:19])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:9])[H:10]>>[C:0]1([H:9])([H:10])[C:1]([H:11])([H:12])[C:2]([H:13])([H:14])[C:3]([H:15])([H:16])[C:4]([H:17])([H:18])[C:5]([H:19])[C:6]1([C:7]([H:20])([H:21])[H:22])[C:8]([H:23])([H:24])[H:25],35.564
[C:0]([C:1]([C:2]([H:11])([H:12])[H:13])([C:3]([O:4][O:5][H:16])([H:14])[H:15])[C:6]([O:7][O:8][H:19])([H:17])[H:18])([H:9])[H:10]>>[C:0](=[C:1]([C:3]([O:4][O:5][H:16])([H:14])[H:15])[C:6]([O:7][O:8][H:19])([H:17])[H:18])([H:9])[H:10].[C:2]([H:11])([H:12])[H:13],118.4072
